US04791103
Five and one-half g of trimethylsilylcyanide is added to a mixture of 7.3 g of 1-tetralone and 10 mg of zinc iodide. The mixture is stirred at room temperature overnight. It is dissolved in 25 ml dry THF and slowly added to a suspension of 2.3 g of lithium aluminumhydride in 40 ml of THF. Reaction is refluxed for three hours and upon cooling, carefully quenched with water. Precipitate is filtered and aqueous solution is diluted with 100 ml 1N NaOH. It was extracted with ether (3×100 ml), dried over anhydrous MgSO4, filtered, and ether evaporated yielding an oil which solidifies upon standing giving 6.4 g (73%) of (1-hydroxy-1,2,3,4-tetrahydronaphthyl)methylamine.

reactant | trimethylsilylcyanide | C[Si](C)(C)C#N | C4H9NSi
reactant | 1-tetralone | 7.3 g | C1(CCCC2=CC=CC=C12)=O | C10H10O
reactant | lithium | 2.3 g | [Li] | Li
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
catalyst | zinc iodide | 10 mg | [I-].[Zn+2].[I-]
product | (1-hydroxy-1,2,3,4-tetrahydronaphthyl)methylamine | 6.4 g, 73% | OC1(CCCC2=CC=CC=C12)CN | C11H15NO
